US06245790B1
To a solution of (S)-2-(4,5-diphenyloxazol-2-yl)-1-{3-{2-[2-(triphenylmethyl)tetrazol-5-yl]phenyl}benzyl}-2-cyclohexene (0.8 g) in methanol (20 ml) was added conc. HCl solution (2 ml). After being stirred for 4 hours, the solvent was evaporated in vacuo. The residue was purified by chromatography on silica gel to give (S)-2-(4,5-diphenyloxazol-2-yl)-1-{3-[2-(tetrazol-5-yl)phenyl]benzyl}-2-cyclohexene (50 mg).

reactant | (S)-2-(4,5-diphenyloxazol-2-yl)-1-{3-{2-[2-(triphenylmethyl)tetrazol-5-yl]phenyl}benzyl}-2-cyclohexene | 0.8 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1[C@@H](CCCC1)CC1=CC(=CC=C1)C1=C(C=CC=C1)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C54H43N5O
reactant | HCl | 2 ml | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | (S)-2-(4,5-diphenyloxazol-2-yl)-1-{3-[2-(tetrazol-5-yl)phenyl]benzyl}-2-cyclohexene | 50 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1[C@@H](CCCC1)CC1=CC(=CC=C1)C1=C(C=CC=C1)C1=NN=NN1 | C35H29N5O
